datasets/10k__Tet_Int.csv
SMILES Labelled
"CCC1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)[H].[O-:21][H]>>CCC1C(C(O[C:20](N1C)([O-:10])[O:21][H])C1=CC=CC=C1)[H] 21=20;20,10=10"
"C(C(O[C:20](=[O:10])OCC)C)([O-:21])CCCCCC>>C1(C([O:21][C:20](O1)([O-:10])OCC)CCCCCC)C 21=20;20,10=10"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(CC)[NH][C:20]([NH][H])=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(CC)[NH]1)[C:20]1([NH:21][H])[NH][H] 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](CC)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](CC)[CH]([H])C(C)[NH]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C)C)CCCCCC)[O-:10])C1=CC=CC=C1>>CN([C:20](=[O:10])OC(C(C([O-:21])C)C)CCCCCC)C1=CC=CC=C1 10=20;20,21=21"
"[H][O+:21]=[C:20]2[O]C(CC)C(C8=CC=CC=C8)[S]2.C[O:10][H].[Cl-]>>[Cl-].C[O+:10]([H])[C:20]1([O:21][H])[O]C(CC)C(C8=CC=CC=C8)[S]1 10=20;20,21=21"
"[H][O:10]C([H])C(C)C(C8=CC=CC=C8)[NH][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][O+:10](C([H])C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"[OH:10]C(C)/C(C)=C([C:20](OCC)=[OH+:21])/O>>[OH:21][C:20]1(OCC)[OH+:10]C(C)C(C)=C1O 10=20;20,21=21"
"[H][O:10]C(CC)C(C)C(C)[O][C:20]([NH]CC)=[NH+:21]CC.[Cl-]>>[Cl-].[H][O+:10](C(CC)C(C)C(C)[O]1)[C:20]1([NH:21]CC)[NH]CC 10=20;20,21=21"
"C1(C(O[C:20]([O-:10])([O:21]C1C1=CC=CC=C1)OCC)[H])CC>>C(C([O-:21])C1=CC=CC=C1)(C(O[C:20](=[O:10])OCC)[H])CC 10=20;20,21=21"
"CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]C)C1=CC=CC=C1)C>>CCC1C(C(O[C:20](=[O:10])N1CC)C1=CC=CC=C1)C.[O-:21]C 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C)C(C)[CH](CC)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C)[CH](C)C(CC)[NH]2.C[O:10][H] 21=20;20,10=10"
"C[O+:21]=[C:20]2[S][CH](C)[CH](C)C(CC)[O]2.CC[S:10][H].[Cl-]>>[Cl-].CC[S+:10]([H])[C:20]1([O:21]C)[S][CH](C)C(C)[CH](CC)[O]1 10=20;20,21=21"
"C[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C)[NH]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C(C)[CH](C)[NH]1 10=20;20,21=21"
"[H][NH+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21][H])[O]C.[Cl-]>>[Cl-].[H][NH:10]C([H])C([H])C(CC)[O][C:20]([O]C)=[NH+:21][H] 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C([H])[S][C:20]([S]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C([H])[S]1)[C:20]1([O:21][H])[S]CC 10=20;20,21=21"
"[O-:10]C(C)C(C)C(O)C(O)[C:20](C)=[O:21]>>[O-:21][C:20]1(C)C(O)C(O)C(C)C(C)[O:10]1 10=20;20,21=21"
"[H][O:10]C(C)C([H])C(CC)[S][C:20]([S][H])=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(C)C([H])C(CC)[S]1)[C:20]1([O:21]C)[S][H] 10=20;20,21=21"
"CCC1C(O[C:20](=[O:10])N1C1=CC=CC=C1)[H].[O-:21]CC>>CCC1C(O[C:20](N1C1=CC=CC=C1)([O-:10])[O:21]CC)[H] 21=20;20,10=10"
"CC1C(O[C:20](=[O:10])N1CCCCCC)CC.[O-:21]C1=CC=CC=C1>>CC1C(O[C:20](N1CCCCCC)([O-:10])[O:21]C1=CC=CC=C1)CC 21=20;20,10=10"
"[O-:21][C:20]1(OCC)C(C)C(C)=C([H])C(CCC)[O+:10]1([K])>>[O:10]([K])C(CCC)/C([H])=C(C)\C(C)[C:20](OCC)=[O:21] 21=20;20,10=10"
"CCC1C(C(O[C:20](N1CC)([O-:10])[O:21]CC)CCCCCC)C>>CCC1C(C(O[C:20](=[O:10])N1CC)CCCCCC)C.[O-:21]CC 10=20;20,21=21"
"[H]C1C(C(O[C:20](=[O:10])N1C)C1=CC=CC=C1)CCCCCC.[O-:21]CC>>[H]C1C(C(O[C:20](N1C)([O-:10])[O:21]CC)C1=CC=CC=C1)CCCCCC 21=20;20,10=10"
"[H][S:10]C(C9=CC=CC=C9)C(C)C(C)[O][C:20]([O]C7=CC=CC=C7)=[O+:21][H].[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C)C(C)[O]1)[C:20]1([O:21][H])[O]C7=CC=CC=C7 10=20;20,21=21"
"[H][NH:10]C(C)C(C8=CC=CC=C8)[NH][C:20]([O]C)=[NH+:21][H].[Cl-]>>[Cl-].[H][NH+:10](C(C)C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21][H])[O]C 10=20;20,21=21"
"[H]N([C:20]([O-:10])(OC)[O:21]CC)CCCCCC>>[H]N([C:20](=[O:10])OC)CCCCCC.[O-:21]CC 10=20;20,21=21"
"[H][O+:10](C(C)C([H])[O]1)[C:20]1([NH:21]C)[NH]C.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])[O][C:20]([NH]C)=[NH+:21]C 21=20;20,10=10"
"[H][O+:10](C(C)C([H])C(C)[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C(C)C([H])C(C)[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"[H][NH+:10](C(C9=CC=CC=C9)C([H])C([H])[O]1)[C:20]1([NH:21]C)[O]CC.[Cl-]>>[Cl-].[H][NH:10]C(C9=CC=CC=C9)C([H])C([H])[O][C:20]([O]CC)=[NH+:21]C 21=20;20,10=10"
"CN([C:20]1(OC(C(C([O:21]1)C1=CC=CC=C1)CC)[H])[O-:10])[H]>>CN([C:20](=[O:10])OC(C(C([O-:21])C1=CC=CC=C1)CC)[H])[H] 10=20;20,21=21"
"[H][S:10]C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O][C:20]([O][H])=[O+:21][Si](C)(C)(C).[Cl-]>>[Cl-].[H][S+:10](C(C9=CC=CC=C9)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][Si](C)(C)(C))[O][H] 10=20;20,21=21"
"CN([C:20]1(OC(C(C([O:21]1)CCCCCC)[H])CC)[O-:10])C1=CC=CC=C1>>CN([C:20](=[O:10])OC(C(C([O-:21])CCCCCC)[H])CC)C1=CC=CC=C1 10=20;20,21=21"
"C[S:10][H].C[O+:21]=[C:20]([S]CC)[S]CC.[Cl-]>>[Cl-].C[S+:10]([H])[C:20]([O:21]C)([S]CC)[S]CC 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C([H])[NH][C:20]([O][H])=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])[NH]1)[C:20]1([NH:21]C)[O][H] 10=20;20,21=21"
"CC[O+:10]([Li])[C:21]([O-:20])(OCCCCCC)OC1=CC=CC=C1>>[O:20]=[C:21](OCCCCCC)OC1=CC=CC=C1.CC[O:10][Li] 20=21;21,10=10"
"C1(C(O[C:20]([O-:10])([O:21]C1C)OC)CCCCCC)CCCCCC>>C(C([O-:21])C)(C(O[C:20](=[O:10])OC)CCCCCC)CCCCCC 10=20;20,21=21"
